US04128557
B. Preparation of 3-amino-5-phenylmercapto-1,2,4-triazole
Diphenyliodonium bromide (120 g., 0.33 mole) was added to a solution of 3-amino-5-mercapto-1,2,4-triazole (38.2 g., 0.33 mole) and sodium methoxide (17.8 g., 0.33 mole) in 700 ml of methanol. The resulting mixture was stirred at reflux for five days. The reaction mixture was then evaporated to dryness. The residue was taken up in water and extracted twice with ethoxy acetate. The combined organic extracts were dried over magnesium sulfate, filtered and evaporated to dryness. The residue was slurried in CHCl3 and filtered. The crude product was absorbed on a silica dry column with ethoxy acetate as solvent. The product band was excised and extracted with ethanol. The extract was evaporated to dryness and the residue slurried in CHCl3 and filtered. The product was then recrystallized from a mixture of ethoxy acetate and CHCl3 to provide a white solid having a melting point of 144°-146° C. The product was identified by mass spectroscopy and nuclear magnetic resonance.

reactant | Diphenyliodonium bromide | 0.33 mole, 120 g | [Br-].C1(=CC=CC=C1)[I+]C1=CC=CC=C1
reactant | 3-amino-5-mercapto-1,2,4-triazole | 0.33 mole, 38.2 g | NC1=NNC(=N1)S | C2H4N4S
reactant | sodium methoxide | 0.33 mole, 17.8 g | C[O-].[Na+]
solvent | methanol | 700 ml | CO | CH4O
product | 3-amino-5-phenylmercapto-1,2,4-triazole | NC1=NNC(=N1)SC1=CC=CC=C1 | C8H8N4S
